US04405640
A solution of allyl bromide (2.5 g) in dry tetrahydorfuran (10 ml) was added dropwise with stirring to 3,5-difluorobromobenzene (4.0 g) with magnesium (0.5 g) in dry tetrahydrofuran) in dry tetrahydrofuran (40 ml), whilst maintaining the temperature of the mixture at about 20° C. When the addition was complete the mixture was allowed to warm to the ambient temperature (ca. 25° C.) After a period of 18 hours the mixture was poured into water (100 ml) and the resultant mixture extracted with diethyl ether, the extract washed with water, dried over anhydrous magnesium sulphate and the ether removed by distillation at atmospheric pressure. The residual oil was purified by distillation at atmospheric pressure to yield allyl-3,5-difluorobenzene (b.p. 154-155°) as a colourless oil.

reactant | allyl bromide | 2.5 g | C(C=C)Br | C3H5Br
reactant | 3,5-difluorobromobenzene | 4.0 g | FC=1C=C(C=C(C1)F)Br | C6H3BrF2
reactant | magnesium | 0.5 g | [Mg] | Mg
reactant | water | 100 ml | O | H2O
solvent | tetrahydorfuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | allyl-3,5-difluorobenzene | C(C=C)C1=CC(=CC(=C1)F)F | C9H8F2
